US06919337B2
Using the general procedure for Intermediate 1, (4-nitro-benzyl)-urea [J. Med. Chem. 1996, 39, 1924] is converted into 6-amino-3-methyl-1-(4-nitro-benzyl)-1H-pyrimidin-2,4-dione, [MH]+ 277. A solution of calcium chloride (4.94 g, 45 mmol) in water (100 ml) is added to a solution of 6-amino-3-methyl-1-(4-nitro-benzyl)-1H-pyrimidine-2,4-dione (19.08 g, 69.0 mmol) in acetic acid (300 ml). Zinc dust (58.8 g, 900 mmol) is then added portionwise with external cooling. The reaction is stirred at room temperature for 1.5 hours, filtered through a celite plug and washed successively with ethanol and acetic acid. Evaporation of the combined filtrate and washings affords 6-amino-1-(4-amino-benzyl)-3-methyl-1H-pyrimidin-2,4-dione acetic acid salt, [M-3H]− 243. Acetic anhydride (7.2 ml, 76.0 mmol) is added to a cooled (0° C.) suspension of 6-amino-1-(4-amino-benzyl)-3-methyl-1H-pyrimidine-2,4-dione acetic acid salt (17.0 g, 69.0mmol) in pyridine (260 ml). The reaction mixture is warmed to room temperature, stirred for 6 hours and the solvent evaporated. The residue is triturated with water and the solid collected by filtration and dried to afford N-[4-(6-amino-3-methyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-phenyl]-acetamide, [MH]+ 289. Using the general procedure for Intermediate 1, this compound is converted into N-[4-(5,6-diamino-3-methyl-2,4-dioxo-3,4dihydro-2H-pyrimidin-1-ylmethyl)-phenyl]-acetamide, [MH]+ 304.

reactant | Acetic anhydride | 76.0 mmol, 7.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-amino-1-(4-amino-benzyl)-3-methyl-1H-pyrimidine-2,4-dione acetic acid salt | 69.0mmol, 17.0 g | C(C)(=O)O.NC1=CC(N(C(N1CC1=CC=C(C=C1)N)=O)C)=O
solvent | pyridine | 260 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(6-amino-3-methyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-phenyl]-acetamide | NC1=CC(N(C(N1CC1=CC=C(C=C1)NC(C)=O)=O)C)=O | C14H16N4O3
